US03953435
Dimethyl 2-oxo-3-phenoxypropylphosphonate
40.1 g. of dimethyl methylphosphonate were dissolved in 200 ml. of anhydrous tetrahydrofuran, to which 154 ml. of a 2N n-butyllithium solution in n-hexane were added dropwise whilst maintaining the temperature from -60° to -70°C. After stirring for 20 minutes, 15 g. of ethyl phenoxyacetate in 80 ml. of tetrahydrofuran were added to the solution. The mixture was stirred at the same temperature for 2 hours and then at room temperature overnight. The reaction mixture was neutralized with acetic acid and concentrated under reduced pressure. The residue was dissolved in a small amount of water and extracted with diethyl ether. The ethereal extracts were washed with an aqueous sodium chloride solution, dried over magnesium sulphate and concentrated under reduced pressure. The residue was purified by distillation in vacuo to give 18.9 g. of the title compound having the following physical characteristics:

reactant | dimethyl methylphosphonate | CP(OC)(OC)=O | C3H9O3P
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | n-butyllithium | 2N | C(CCC)[Li]
reactant | ethyl phenoxyacetate | O(C1=CC=CC=C1)CC(=O)OCC | C10H12O3
solvent | n-hexane | CCCCCC | C6H14
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Dimethyl 2-oxo-3-phenoxypropylphosphonate | O=C(CP(OC)(OC)=O)COC1=CC=CC=C1 | C11H15O5P
